US08859536B2
5-bromo-1-phenyl-1H-indole (65A)
Copper(I) bromide (0.073 g, 0.509 mmol) was added to a solution of 5-bromo indole (1 g, 10.2 mmol) in iodo benzene (13.5 g, 66.2 mmol) followed by potassium carbonate (2.7 g, 19.54 mmol), and the mixture was stirred at 100° C. for 10 min. NaOH (150 mg, 3.75 mmol) and copper(II) acetate (0.01 g, 0.055 mmol) was added at 140° C., and the mixture was stirred for 9 h. Insoluble solids were filtered off, filtrate was concentrated and partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate and filtered. The filtrate was concentrated under reduced pressure and purified by flash chromatography using 8% ethyl acetate in pet ether to afford title compound (0.5 g, 36%) as an oil. 1H NMR (300 MHz, CDCl3): δ 7.80 (m, 1H), 7.60-7.45 (m, 4H), 7.42-7.38 (m, 2H), 7.35-7.25 (m, 2H), 6.62 (d, J=3.3 Hz, 1H).

reactant | 5-bromo indole | 10.2 mmol, 1 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | iodo benzene | 66.2 mmol, 13.5 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 19.54 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 3.75 mmol, 150 mg | [OH-].[Na+]
catalyst | Copper(I) bromide | 0.509 mmol, 0.073 g | [Cu]Br
catalyst | copper(II) acetate | 0.055 mmol, 0.01 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-bromo-1-phenyl-1H-indole | 0.5 g, 36% | BrC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1 | C14H10BrN
